US06538152B1
To a solution of ethyl 2-[2-bromo-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetate (327 mg) in ethanol (3.3 ml) was added 1N aqueous sodium hydroxide solution (1.45 ml), and the mixture was stirred for 15 hours at room temperature. 1N Hydrochloric acid (1.45 ml) was added to the stirred reaction mixture under ice-cooling, and the solvent was removed under reduced pressure. To the residue was added water, and the resulting insoluble material was collected by filtration to give 2-[2-bromo-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid (88 mg).

reactant | ethyl 2-[2-bromo-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetate | 327 mg | BrC1=C(OCC(=O)OCC)C=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C21H26BrNO5
reactant | sodium hydroxide | 1N, 1.45 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 1.45 ml | Cl | ClH
solvent | ethanol | 3.3 ml | C(C)O | C2H6O
product | 2-[2-bromo-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenoxy]acetic acid | 88 mg | BrC1=C(OCC(=O)O)C=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C19H22BrNO5
